US06492360B1
1-[2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-ol
A solution of 2-(4-methoxy-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole (1.85 g, 9 mmoles), prepared as described in example 1, in dry ethyl ether (37 ml), at 0° C. was added with 2.5M n-butyl lithium (4 ml, 9.9 mmoles) in hexane, keeping the temperature below 5° C. The mixture was left at 0° C. for 4 hours, then dropwise added with a solution of 5-phenyl-pentanale (3.25 g, 20 mmoles) in dry ethyl ether (10 ml), keeping the temperature below 5° C. The mixture was kept at room temperature for 2 days, then poured into water/ice. The phases were separated and the aqueous one was extracted again with ethyl ether. The organic ones were discoloured with charcoal, anhydrified and concentrated to give an oil which was purified by flash chromatography (eluent: petrolatum/ethyl acetate 8:2, then 7:3) to give 1.17 g of the title compound (yield: 35%).

reactant | 2-(4-methoxy-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 9 mmoles, 1.85 g | COC1=CC=C(C=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | n-butyl lithium | 9.9 mmoles, 2.5M, 4 ml | C(CCC)[Li]
reactant | ethyl ether | 37 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 1-[2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-ol | 1.17 g, yield: 35% | CC1(N=C(OC1)C1=C(C=C(C=C1)OC)C(CCCCC1=CC=CC=C1)O)C | C23H29NO3
